US05219849
Methanolic hydrogen chloride (0.8 mL of a 10M methanolic solution) was added to a stirred solution of 2-amino-5-bromopyrazine (6.96 g, 0.04 mol) in anhydrous methanol (125 mL). To this cooled (-10° C.) solution was added isoamyl nitrite (16.1 mL, 0.12 mol) and the reaction mixture was stirred at -10° C. for 1.5 hours then at room temperature for 2 hours. The solvent was evaporated and the residue partitioned between aqueous saturated sodium carbonate (50 mL) and dichloromethane (4×50 mL). The combined organics were dried (sodium carbonate) and evaporated to give a brown oil which was purified by column chromatography on silica using 5% ethyl acetate in petroleum ether (60-80) to afford 2-bromo-5-methoxypyrazine as a pale yellow solid (6.45 g, 85%).

reactant | hydrogen chloride | Cl | ClH
reactant | 2-amino-5-bromopyrazine | 0.04 mol, 6.96 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | isoamyl nitrite | 0.12 mol, 16.1 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | methanol | 125 mL | CO | CH4O
product | 2-bromo-5-methoxypyrazine | 6.45 g, 85% | BrC1=NC=C(N=C1)OC | C5H5BrN2O
